US07989637B2
To a solution of 5-amino-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (500 mg, 1.68 mmol) in trifluoroacetic acid (10 mL) was added a solution of NaNO2 (21.47 mmol, 1.49 g) in water (10 mL) at 0° C. The mixture was stirred at 0° C. for 10 minutes and a solution of NaN3 (44.43 mmol, 2.89 g) in water (10 mL) was added. The solution was stirred at room temperature for 16 hours. Solvent was removed under reduced pressure and the residue was extracted with ethyl acetate, washed with saturated aqueous NaHCO3, brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give 5-azido-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide. (80%). MS (M+H)=325.

reactant | 5-amino-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 1.68 mmol, 500 mg | COCC(C)NC(=O)C=1C=C(C=C(C1)N)C1=CC=C(C=C1)C | C18H22N2O2
reactant | NaNO2 | 21.47 mmol, 1.49 g | N(=O)[O-].[Na+]
reactant | NaN3 | 44.43 mmol, 2.89 g | [N-]=[N+]=[N-].[Na+]
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 5-azido-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | COCC(C)NC(=O)C=1C=C(C=C(C1)N=[N+]=[N-])C1=CC=C(C=C1)C | C18H20N4O2
